US05123951
A mixture of 30.0 grams (0.10 mole) of ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate, 51.58 grams (0.25 mole) of 1,3-dicyclohexylcarbodiimide, 100 milliliters of benzene and 100 milliliters of dimethyl sulfoxide was stirred at ambient temperature and a solution of 4.9 grams (0.05 mole) of anhydrous phosphoric acid in 10 milliliters of dimethyl sulfoxide added dropwise. After a few minutes an exothermic reaction occurred with separation of a white solid and an increase in temperature from 25° C. to 35° C. The reaction mixture was then stirred for an approximate 16-hour period at ambient temperature. The mixture was then diluted with 500 milliliters of ethyl acetate and by-product 1,3-dicyclohexylurea removed by filtration. The filtrate was washed with several portions of water, dried over MgSO4, filtered and freed of solvent under reduced pressure to give a yellow solid. This was crystallized from ethyl acetate-hexane (1:1) to give 15.8 grams (0.04 mole) of ethyl 3 -[(4-bromo-2-methylphenyl)amino]-2-(dimethylsulfuranylidene)-3-oxopropanoate having a melting point of 143° C.-150° C. Recrystallization of a small sample gave a white solid of melting point 146° C.-149° C.

reactant | ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate | 0.10 mole, 30.0 grams | BrC1=CC(=C(C=C1)NC(CC(=O)OCC)=O)C | C12H14BrNO3
reactant | 1,3-dicyclohexylcarbodiimide | 0.25 mole, 51.58 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
reactant | phosphoric acid | 0.05 mole, 4.9 grams | P(O)(O)(O)=O | H3O4P
reactant | dimethyl sulfoxide | 10 milliliters | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 100 milliliters | CS(=O)C | C2H6OS
product | ethyl 3 -[(4-bromo-2-methylphenyl)amino]-2-(dimethylsulfuranylidene)-3-oxopropanoate | 0.04 mole, 15.8 grams | BrC1=CC(=C(C=C1)NC(C(C(=O)OCC)=S(C)C)=O)C | C14H18BrNO3S
